US05750531
Synthesis of 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(1.0 ml, 10 mmol) was added to a mixture solution of 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.4 g, 4.8 mmol) and dimethylformamide(10 ml), 1.32 g of the title compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 10 mmol, 1.0 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 4.8 mmol, 1.4 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.32 g, Yield: 69% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-14-15(2)24-22(25-19-10-8-18(23)9-11-19)26-21(14)27-13-12-17-6-4-5-7-20(17)16(27)3;/h4-11,16H,12-13H2,1-3H3,(H,24,25,26);1H
